US07781598B2
The (4-amino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester prepared above (8.59 g) was dissolved in ethyl acetate (175 ml) then triethylamine (5.2 ml, 37 mmol) added followed by acetyl chloride (2.6 ml, 37 mmol). An exotherm to 35° C. was observed and a thick suspension resulted. After stirring for 4 hours during which the mixture was allowed to cool back to ambient temperature, water (85 ml) was added and the ethyl acetate removed by evaporation under vacuum. The solid was collected by filtration, washed with water (25 ml) followed by 50% v/v aqueous acetonitrile (50 ml) then dried in a vacuum oven at 50° C. overnight to provide (4-acetylamino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester, as an off-white solid, 7.26 g (77% from (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester).

reactant | (4-amino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | NC1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H16N2O2
reactant | triethylamine | 37 mmol, 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 37 mmol, 2.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 85 ml | O | H2O
solvent | ethyl acetate | 175 ml | C(C)(=O)OCC | C4H8O2
product | (4-acetylamino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C15H18N2O3
